US08614327B2
To a solution of 2-bromo-4-fluoro-5-nitro-phenol (3.5 g, 14.83 mmol) and Cs2CO3 (5.80 g, 17.80 mmol) in DMF (26 mL) was added benzyl bromide (2.80 g, 1.94 mL, 16.31 mmol) dropwise. The reaction was stirred at room temperature under an inert atmosphere for 2 h. The reaction was quenched with water and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layer was dried over Na2SO4, filtered and concentrated. The residue was purified by silica gel column chromatography using 40% DCM/hexane gradient to yield 1-(benzyloxy)-2-bromo-4-fluoro-5-nitrobenzene. 1H NMR (400 MHz, CDCl3) δ 7.65 (d, J=6.4 Hz, 1H), 7.59 (d, J=9.9 Hz, 1H), 7.52-7.34 (m, 5H), 5.23 (s, 2H).

reactant | 2-bromo-4-fluoro-5-nitro-phenol | 14.83 mmol, 3.5 g | BrC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3BrFNO3
reactant | Cs2CO3 | 17.80 mmol, 5.80 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | benzyl bromide | 16.31 mmol, 1.94 mL, 2.80 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 1-(benzyloxy)-2-bromo-4-fluoro-5-nitrobenzene | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Br | C13H9BrFNO3
